US07851473B2
A solution of 2-chloro-4-phenyl-1,3-thiazole (1.54 mg, 7.87 mmol), 1-(tert-butoxycarbonyl)-piperazine (4.40 g, 23.6 mmol) and potassium carbonate (1.09 g, 7.87 mmol) in dimethylformamide (26 ml) was stirred at 120° C. for 2 hours. Water was poured to the reaction mixture, and the resulting solution was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1) to give 691 mg (25.4%) of tert-butyl 4-(4-phenyl-1,3-thiazol-2-yl)piperazine-1-carboxylate as a solid.

reactant | 2-chloro-4-phenyl-1,3-thiazole | 7.87 mmol, 1.54 mg | ClC=1SC=C(N1)C1=CC=CC=C1 | C9H6ClNS
reactant | 1-(tert-butoxycarbonyl)-piperazine | 23.6 mmol, 4.40 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | potassium carbonate | 7.87 mmol, 1.09 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | dimethylformamide | 26 ml | CN(C=O)C | C3H7NO
product | tert-butyl 4-(4-phenyl-1,3-thiazol-2-yl)piperazine-1-carboxylate | 691 mg, 25.4% | C1(=CC=CC=C1)C=1N=C(SC1)N1CCN(CC1)C(=O)OC(C)(C)C | C18H23N3O2S
